US05478838
To a solution of 4-amino-1H-pyrrolo[2,3-b]pyridine (2.46 g) dissolved in acetonitrile (100 ml) was added diisopropylethylamine (6.5 ml). The mixture was stirred at 40° C. Trans-4-(1,3-dibenzyloxycarbonylguanidinomethyl)cyclohexanecarboxylic chloride (19.86 g) was added to this solution and the mixture was stirred at 50° C. for 2 hours. Then, diisopropylethylamine (6 ml) and trans-4-(1,3-dibenzyloxycarbonylguanidinomethyl)cyclohexanecarboxylic chloride (15.03 g) were added thereto and the mixture was stirred at 50° C. for 2 hours. The solvent was distilled away under reduced pressure and the residue obtained was dissolved in methanol (100 ml). Sodium methoxide (1.05 g) was added to this solution and the mixture was stirred under ice-cooling for 1 hour and at room temperature for 1 hour. The solvent was distilled away under reduced pressure, chloroform (200 ml) was added thereto and the mixture was washed with water. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 3.61 g of trans-N-(1H-pyrrolo[2,3-b]pyridin-4-yl)-4-(1-benzyloxycarbonylguanidinomethyl)cyclohexanecarboxamide, melting point 160°-162° C.

reactant | 4-amino-1H-pyrrolo[2,3-b]pyridine | 2.46 g | NC1=C2C(=NC=C1)NC=C2 | C7H7N3
reactant | diisopropylethylamine | 6.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Trans-4-(1,3-dibenzyloxycarbonylguanidinomethyl)cyclohexanecarboxylic chloride | 19.86 g | C(C1=CC=CC=C1)OC(=O)N(C(=N)NC(=O)OCC1=CC=CC=C1)C[C@@H]1CC[C@H](CC1)C(=O)Cl | C25H28ClN3O5
reactant | diisopropylethylamine | 6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trans-4-(1,3-dibenzyloxycarbonylguanidinomethyl)cyclohexanecarboxylic chloride | 15.03 g | C(C1=CC=CC=C1)OC(=O)N(C(=N)NC(=O)OCC1=CC=CC=C1)C[C@@H]1CC[C@H](CC1)C(=O)Cl | C25H28ClN3O5
reactant | Sodium methoxide | 1.05 g | C[O-].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | methanol | 100 ml | CO | CH4O
product | trans-N-(1H-pyrrolo[2,3-b]pyridin-4-yl)-4-(1-benzyloxycarbonylguanidinomethyl)cyclohexanecarboxamide | 3.61 g | N1C=CC=2C1=NC=CC2NC(=O)[C@@H]2CC[C@H](CC2)CN(C(=N)N)C(=O)OCC2=CC=CC=C2 | C24H28N6O3
